US09238596B2
Synthesis of 1-Amino-3-benzyloxy-cyclobutanecarboxylic acid ethyl ester
To a reactor charged with 1-amino-3-benzyloxy-cyclobutanecarboxylic acid (202.7 g, 0.94 mol) was added ethanol (7.0 l); the mixture was stirred at ambient temperature with mechanical stirring under an N2-atmosphere for 18 minutes. To the reaction mixture was added Et3N (350 ml, 2.51 mol), cooled to −1.8° C. and SOCl2 (170 ml, 2.4 mol) was added carefully keeping the reaction temperature <10° C. The reaction mixture was refluxed for 20 hours 10 minutes (reaction progress followed by TLC monitoring). Upon complete reaction the reaction mixture was cooled to 20° C. and evaporated in vacuo at 35° C. The weight of crude product including salts was 631.2 g.

reactant | 1-amino-3-benzyloxy-cyclobutanecarboxylic acid | 0.94 mol, 202.7 g | NC1(CC(C1)OCC1=CC=CC=C1)C(=O)O | C12H15NO3
reactant | Et3N | 2.51 mol, 350 ml | CCN(CC)CC | C6H15N
reactant | SOCl2 | 2.4 mol, 170 ml | O=S(Cl)Cl | Cl2OS
solvent | ethanol | 7.0 l | C(C)O | C2H6O
product | 1-Amino-3-benzyloxy-cyclobutanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC(C1)OCC1=CC=CC=C1)N | C14H19NO3
